US05834463
1-Benzyl-4((E)-2-(4-pyridyl)vinyl)-1,3-dihydro-1,5-benzodiazepin-2(2H)-one
Using 1-benzyl-4-methyl-1,3-dihydro-1,5-benzodiazepin-2(2H)-one and isonicotinaldehyde, the titled compound was synthesized in substantially the same manner as in Working Example 144 in a yield of 36%, m.p. 208°-210° C. (diethyl ether).

reactant | 1-benzyl-4-methyl-1,3-dihydro-1,5-benzodiazepin-2(2H)-one | C(C1=CC=CC=C1)N1C(CC(=NC2=C1C=CC=C2)C)=O | C17H16N2O
reactant | isonicotinaldehyde | C(C1=CC=NC=C1)=O | C6H5NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-Benzyl-4((E)-2-(4-pyridyl)vinyl)-1,3-dihydro-1,5-benzodiazepin-2(2H)-one | yield of 36% | C(C1=CC=CC=C1)N1C(CC(=NC2=C1C=CC=C2)\C=C\C2=CC=NC=C2)=O | C23H19N3O
